US08076355B2
rac-N-(1-Azabicyclo[2.2.2]oct-3-yl)-5-acetylamino-1-benzothiophene-2-carboxamide hydrochloride
41.0 mg (0.12 mmol) of rac-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-amino-1-benzothiophene-2-carboxamide dihydrochloride and 36.8 mg (0.36 mmol) of triethylamine are dissolved in 1.5 ml of DMF. At 0° C., 14.3 mg (0.18 mmol) of acetyl chloride are added, and the mixture is stirred at RT overnight. The reaction mixture is purified by preparative HPLC. 29 mg (63% of theory) of the title compound are isolated.

reactant | rac-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-amino-1-benzothiophene-2-carboxamide dihydrochloride | 0.12 mmol, 41.0 mg | Cl.Cl.N12CC(C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)N
reactant | triethylamine | 0.36 mmol, 36.8 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.18 mmol, 14.3 mg | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | rac-N-(1-Azabicyclo[2.2.2]oct-3-yl)-5-acetylamino-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12CC(C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)NC(C)=O | InChI=1S/C18H21N3O2S.ClH/c1-11(22)19-14-2-3-16-13(8-14)9-17(24-16)18(23)20-15-10-21-6-4-12(15)5-7-21;/h2-3,8-9,12,15H,4-7,10H2,1H3,(H,19,22)(H,20,23);1H
